US07704995B2
To a stirred solution of 3-amino-6-{3-[amino(imino)methyl]phenyl}-N-methylpyrazine-2-carboxamide (0.13 6 mg, 0.5 mmol) in DMF (5 mL) was added bronoacetophenone (0.11 g, 0.55 mmol ) followed by K2CO3 (0.276 g). The resulting mixture was heated at 70 ° C. for 0.5 h. The mixture was poured into water (30 mL) and extracted with ethyl acetate (30 mL). The extract was washed with brine, dried (Na2SO4), and concentrated. The product was purified by hplc to provide 3-amino-N-methyl-6-[3-(4-phenyl-1H-imidazol-2-yl)phenyl]pyrazine-2-carboxamide (58 mg): 1H NMR (400 MHz; DMSO-d6): 8.94 (s, 1H); 8.82 (m, 1H); 8.62 (s, 1H); 8.2 (d, 1H); 8.04 (d, 1H); 7.9-7.78 (m, 3H); 7.58 (t, 1H); 7.38 (m, 2H); 7.24 (t, 1H); 2.82 (d, 3H); MS (EI) for C21H18N6O: 371 (MH+).

reactant | 3-amino-6-{3-[amino(imino)methyl]phenyl}-N-methylpyrazine-2-carboxamide | 0.5 mmol, 6 mg | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C(=N)N)C(=O)NC | C13H14N6O
reactant | K2CO3 | 0.276 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 30 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-amino-N-methyl-6-[3-(4-phenyl-1H-imidazol-2-yl)phenyl]pyrazine-2-carboxamide | 58 mg | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C=1NC=C(N1)C1=CC=CC=C1)C(=O)NC | C21H18N6O
